US07560567B2
Preparation of tert-butyl 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butylcarbamate
189 g of 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butanenitrile (0.758 mol), 331 g (1.51 mol) of diterbutyl carbonate, 198 g (0.834 mol) of nickel chloride (II)—hexahydrate are stirred in 2 L of methanol at room temperature. 200.6 g (5.31 mol) of sodium borohydride are added portionwise. After 3 hours of stirring, the reaction mixture is filtered over Supercel, 2 L of ethyl acetate are added, followed by 1.5 L of an aqueous solution of sodium bicarbonate.

reactant | 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butanenitrile | 0.758 mol, 189 g | ClC=1C(=NC=C(C1)C(F)(F)F)C(C#N)CC | C10H8ClF3N2
reactant | diterbutyl carbonate | 1.51 mol, 331 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | sodium borohydride | 5.31 mol, 200.6 g | [BH4-].[Na+]
solvent | methanol | 2 L | CO | CH4O
product | tert-butyl 2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]butylcarbamate | ClC=1C(=NC=C(C1)C(F)(F)F)C(CNC(OC(C)(C)C)=O)CC | C15H20ClF3N2O2
